US09108977B2
To a solution of 130 mg of t-butyl 3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 4 ml of dichloromethane were added 0.036 ml of methanesulfonyl chloride and 0.089 ml of diisopropylethylamine under ice-cooling, followed by stirring at room temperature for 16 hours. To the reaction mixture were added 0.036 ml of methanesulfonyl chloride and 0.089 ml of diisopropylethylamine, followed by stirring at room temperature for additional 9 hours. To the reaction mixture was added water, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 152 mg of t-butyl 4-(methylsulfonyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate as a colorless solid.

reactant | t-butyl 3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 130 mg | O1CCNC2=CC3=C(CCN(CC3)C(=O)OC(C)(C)C)C=C21 | C17H24N2O3
reactant | methanesulfonyl chloride | 0.036 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.089 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.036 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.089 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | t-butyl 4-(methylsulfonyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 152 mg | CS(=O)(=O)N1CCOC=2C1=CC1=C(CCN(CC1)C(=O)OC(C)(C)C)C2 | C18H26N2O5S
